US05273986
A mixture of 0.5 g of (E)-4-methyl-3-[2-[4-(1-methylethyl)-2-thiazolyl]ethenyl]benzenamine, 0.5 g of homophthalic anhydride and 35 ml of toluene was heated to reflux for 1 hr. After cooling and dilution with hexane, 0.5 g of (E)-2-[2-[4-methyl-3-[2-[4-(1-methylethyl)-2-thiazolyl]ethenyl]phenylamino]-2-oxoethyl]benzoic acid was isolated by filtration; m.p. 181°-183° C.

reactant | (E)-4-methyl-3-[2-[4-(1-methylethyl)-2-thiazolyl]ethenyl]benzenamine | 0.5 g | CC1=C(C=C(C=C1)N)\C=C\C=1SC=C(N1)C(C)C | C15H18N2S
reactant | homophthalic anhydride | 0.5 g | C1(CC=2C(C(=O)O1)=CC=CC2)=O | C9H6O3
reactant | toluene | 35 ml | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
product | (E)-2-[2-[4-methyl-3-[2-[4-(1-methylethyl)-2-thiazolyl]ethenyl]phenylamino]-2-oxoethyl]benzoic acid | 0.5 g | CC1=C(C=C(C=C1)NC(CC1=C(C(=O)O)C=CC=C1)=O)\C=C\C=1SC=C(N1)C(C)C | C24H24N2O3S
